US04419361
157.5 g (0.44 mol) of 1-bromo-1-(2,4-dichlorophenoxy)-3,3-dimethyl-4-fluoro-2-butanone were dissolved in 500 ml of acetonitrile and the solution was added dropwise to a solution of 109 g (1.6 mol) of imidazole in 600 ml of acetonitrile. The mixture was heated under reflux for 10 hours. Thereafter, the solvent was distilled off under a waterpump vacuum, the residue was taken up in 1,000 ml of methylene chloride and the methylene chloride mixture was washed three times with 500 ml of water each time. The organic phase was dried over sodium sulphate, filtered and concentrated under a waterpump vacuum by distilling off the solvent. The residue was dissolved in 500 ml of ethanol, 40 ml each of concentrated hydrochloric acid were added and the solvent was distilled off under a waterpump vacuum. The residue was stirred with 500 ml of ether, whereupon it crystallized. 66 g (39.3% of theory) of 1-(2,4-dichloro-phenoxy)-3,3-dimethyl-4-fluoro-1-(imidazol-1 -yl)-2-butanone hydrochloride of melting point 91°-110° C. were obtained.

reactant | 1-bromo-1-(2,4-dichlorophenoxy)-3,3-dimethyl-4-fluoro-2-butanone | 0.44 mol, 157.5 g | BrC(C(C(CF)(C)C)=O)OC1=C(C=C(C=C1)Cl)Cl | C12H12BrCl2FO2
reactant | imidazole | 1.6 mol, 109 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | 1-(2,4-dichloro-phenoxy)-3,3-dimethyl-4-fluoro-1-(imidazol-1 -yl)-2-butanone hydrochloride | 66 g, 39.3% | Cl.ClC1=C(OC(C(C(CF)(C)C)=O)N2C=NC=C2)C=CC(=C1)Cl | InChI=1S/C15H15Cl2FN2O2.ClH/c1-15(2,8-18)13(21)14(20-6-5-19-9-20)22-12-4-3-10(16)7-11(12)17;/h3-7,9,14H,8H2,1-2H3;1H
